US07799915B2
Step 2: Preparation of 4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonyl chloride
A solution of N-phenyl-4-[4-(trifluoromethyl)phenyl]pyrimidin-2-amine (0.16 g, 0.5 mmol) in 1.5 ml of chlorosulfonic acid is stirred at 65 to 70° C. for 1 hr. It is then cooled to room temperature, and added slowly to a stirred mixture of ice and water. The resulting suspension is filtered, and the precipitate is washed with water and then dried in vacuo to give 0.24 g of a yellow solid; mp 186-188° C.; HRMS: calcd for C17H11ClF3N3O2S, 413.0213; found (ESI-FTMS, [M+H]1+), 414.02984.

reactant | N-phenyl-4-[4-(trifluoromethyl)phenyl]pyrimidin-2-amine | 0.5 mmol, 0.16 g | C1(=CC=CC=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C17H12F3N3
reactant | water | O | H2O
reactant | chlorosulfonic acid | 1.5 ml | ClS(=O)(=O)O | ClHO3S
product | 4-({4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)benzenesulfonyl chloride | 0.24 g | FC(C1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C17H11ClF3N3O2S
